US08138165B2
Preparation of 6,7-methylenedioxy-5-hydroxy-4′-methoxy-flavone.
A solution of Kanzakiflavone-1 or 6,7-methylenedioxy-5,4′-dihydroxyflavone (1.49 g, 5 mmol) [Manchanda, V. P.; Khanna, R. N. Curr. Sci. (1977), 46(13), 445-6.] and dimethylsulfate (1.02 g, 8 mmol) in acetone (20 ml) is refluxed in the presence of anyhyd. potassium carbonate (0.5 g) overnight. The reaction mixture is filtered off and the filtrate is evaporated to give a dark brown residue. The residue is taken up in ethyl acetate and washed with water followed by saturated brine solution and dried (MgSO4), thus giving the title compound, upon filtration and evaporation.

reactant | Kanzakiflavone-1 | COC1=CC=C(C=C1)C2=CC(=O)C3=C(O2)C(=C4C(=C3O)OCO4)O | C17H12O7
reactant | 6,7-methylenedioxy-5,4′-dihydroxyflavone | 5 mmol, 1.49 g | C1OC=2C(=C3C(C=C(OC3=CC2O1)C1=CC=C(C=C1)O)=O)O | C16H10O6
reactant | dimethylsulfate | 8 mmol, 1.02 g | COS(=O)(=O)OC | C2H6O4S
reactant | potassium carbonate | 0.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 20 ml | CC(=O)C | C3H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6,7-methylenedioxy-5-hydroxy-4′-methoxy-flavone | C1OC=2C(=C3C(C=C(OC3=CC2O1)C1=CC=C(C=C1)OC)=O)O | C17H12O6
